US04994569
A solution of (4RS, 5RS)-2-(4-methoxyphenyl)-4-phenyl-5,6-dihydro-4H-1,3-oxazin-5-ol (1.42 g) in anhydrous tetrahydrofuran (15 cc) is added at a temperature in the region of 20° C. to an oily suspension (50% by weight; 0.27 g), maintained under an argon atmosphere, of sodium hydride in anhydrous tetrahydrofuran (15 cc), and the solution obtained is stirred for 30 minutes at this same temperature. A solution of 3,4-dichlorophenyl isocyanate (1.05 g) in anhydrous tetrahydrofuran (10 cc) is then added dropwise and stirring is continued for 4 hours at a temperature in the region of 20° C. Distilled water (20 cc) is then added and the mixture is extracted with dichloromethane (3×80 cc). The organic phases are combined, washed with distilled water (3×20 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The solid obtained is purified by chromatography on silica (0.063-0.2 mm; 300 g) contained in a column 3.5 cm in diameter (eluent: dichloromethane), collecting 30 cc fractions. Fractions 4 to 7 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The solid obtained is again purified by chromatography on silica (0.063-0.2 mm; 125 g) contained in a column 2 cm in diameter [eluent: cyclohexane/ethyl acetate (6:4 by volume)], collecting 20-cc fractions. The fractions 5 to 9 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in diisopropyl ether, (4RS, 5RS)-5-(3,4-dichlorophenylcarbamoyloxy)-2-(4-methoxyphenyl)-4-phenyl-5,6-dihydro-4H-1,3-oxazine (1.1 g), m.p. 130° C., is obtained.

reactant | (4RS, 5RS)-2-(4-methoxyphenyl)-4-phenyl-5,6-dihydro-4H-1,3-oxazin-5-ol | 1.42 g | COC1=CC=C(C=C1)C=1OCC(C(N1)C1=CC=CC=C1)O | C17H17NO3
reactant | sodium hydride | [H-].[Na+]
reactant | 3,4-dichlorophenyl isocyanate | 1.05 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | water | 20 cc | O | H2O
solvent | tetrahydrofuran | 15 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 cc | O1CCCC1 | C4H8O
product | (4RS, 5RS)-5-(3,4-dichlorophenylcarbamoyloxy)-2-(4-methoxyphenyl)-4-phenyl-5,6-dihydro-4H-1,3-oxazine | 1.1 g | ClC=1C=C(C=CC1Cl)NC(=O)OC1C(N=C(OC1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C24H20Cl2N2O4
